US05026856
To a mixture of 5.27 g of 2-benzyl-4-hydroxymethylisoindoline and 2.43 g of sodium carbonate in 25 ml of chloroform was added dropwise 2.49 g of ethyl chloroformate under ice-cooling while stirring. After stirring for 2 days at room temperature, the mixture was washed with water and concentrated. The residue was purified by chromatography on silica gel (chloroform/methanol =10/1) to obtain 3.25 g of 2-ethoxycarbonyl-4-hydroxymethylisoindoline.

reactant | 2-benzyl-4-hydroxymethylisoindoline | 5.27 g | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)CO | C16H17NO
reactant | sodium carbonate | 2.43 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl chloroformate | 2.49 g | ClC(=O)OCC | C3H5ClO2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-ethoxycarbonyl-4-hydroxymethylisoindoline | 3.25 g | C(C)OC(=O)N1CC2=CC=CC(=C2C1)CO | C12H15NO3
